US07317124B2
d) 1,3-Dibromo-2-methoxy-5-pentafluorosulfanylbenzene
450 mg of 2,6-dibromo-4-pentafluorosulfanylphenol, 329 mg of K2CO3 and 186 mg of CH3I were stirred at RT in 5 ml of anhydrous DMF for 24 hours. Subsequently, the reaction mixture was poured onto 100 ml of EA and extracted 3 times with 30 ml each time of water. Drying was effected over MgSO4 and the solvent was removed under reduced pressure to obtain 500 mg of a colorless oil.

reactant | 2,6-dibromo-4-pentafluorosulfanylphenol | 450 mg | BrC1=C(C(=CC(=C1)S(F)(F)(F)(F)F)Br)O | C6H3Br2F5OS
reactant | K2CO3 | 329 mg | C(=O)([O-])[O-].[K+].[K+]
reactant | CH3I | 186 mg | CI | CH3I
reactant | EA | 100 ml | CC(OCC)=O | C4H8O2
solvent | DMF | 5 ml | CN(C)C=O | C3H7NO
product | 1,3-Dibromo-2-methoxy-5-pentafluorosulfanylbenzene | 500 mg | BrC1=C(C(=CC(=C1)S(F)(F)(F)(F)F)Br)OC | C7H5Br2F5OS
